US07915250B2
Potassium tert-butoxide (1.672 g, 14.9 mmol) and ethyltriphenylphosphonium bromide (5.538 g, 14.9 mmol) were stirred in ether (30 mL) at amibient for 1 h. 1,1-Dimethylethyl 3-oxoazetidine-1-carboxylate (954 mg, 6.0 mmol), prepared using procedures similar to those described in Example 3, was added and the mixture was 35° C. for 4.5 h. Mixture was filtered through celite and the solid was washed with ether. The filtrate was washed with water, brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, 20% ether in hexanes) gave 1,1-dimethylethyl 3-ethylideneazetidine-1-carboxylate (506 mg, 2.76 mmol, 49% yield): 1H NMR (400 MHz, CDCl3): 5.37-5.28 (m, 1H), 4.47-4.39 (m, 4H), 1.56-1.51 (m, 3H), 1.45 (s, 9H).

reactant | Potassium tert-butoxide | 14.9 mmol, 1.672 g | CC(C)([O-])C.[K+]
reactant | 1,1-Dimethylethyl 3-oxoazetidine-1-carboxylate | 6.0 mmol, 954 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
catalyst | ethyltriphenylphosphonium bromide | 14.9 mmol, 5.538 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 30 mL | CCOCC | C4H10O
product | 1,1-dimethylethyl 3-ethylideneazetidine-1-carboxylate | 2.76 mmol, 506 mg, 49% yield | C(C)=C1CN(C1)C(=O)OC(C)(C)C | C10H17NO2
